US05583134
(d) 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)piperidine
A saturated solution of hydrogen chloride in ether is added to a solution of 55 g of 3-(2-tetrahydropyranyloxyethyl)-3-(3,4-dichlorophenyl)piperidine in 200 ml of methanol until the pH is 1. The mixture is stirred for half an hour at room temperature and concentrated to dryness, the residue is taken up in water, rendered alkaline with a solution of NaOH and extracted with CH2Cl2 and the extract is washed with a saturated solution of NaCl, dried over Na2SO4 and evaporated to dryness to give an oil. This oil is taken up in 200 ml of an isopropyl ether/ether mixture (50/50 v/v). After stirring and filtration, the product is washed with ethyl ether and dried under vacuum over P2O5 to give 45 g of the expected product. M.p.=122° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-(2-tetrahydropyranyloxyethyl)-3-(3,4-dichlorophenyl)piperidine | 55 g | O1C(CCCC1)OCCC1(CNCCC1)C1=CC(=C(C=C1)Cl)Cl | C18H25Cl2NO2
solvent | ether | CCOCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
solvent | isopropyl ether ether | 200 ml | C(C)(C)OC(C)C.CCOCC
product | 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)piperidine | 45 g | OCCC1(CNCCC1)C1=CC(=C(C=C1)Cl)Cl | C13H17Cl2NO
